US04661626
27.3 mg (0.1 mmole) of sodium perrhenate and 1.04 grams (5.25 mmoles) of diphosgene were present at 80° C. in 1 ml of ethyl acetate saturated with hydrogen chloride. Then there were added within 20 minutes with vigorous stirring 2.05 grams (10 mmoles) of 2-azido-3-phenylpropionic acid methyl ester dissolved in 5 ml of methyl acetate. After reaction for 1 hour at 80° C., the mixture was worked up analogous to Example 1. The crude produce was distilled in a high vacuum (0.0013 mbar) at 90° to 110° C. apparatus temperature in a bulbed tube. There resulted 1.08 grams (53.2% of theory) of analytically pure 2-isocyanato-3-phenylpropenoic acid methyl ester.

reactant | diphosgene | 5.25 mmoles, 1.04 grams | O=C(OC(Cl)(Cl)Cl)Cl | C2Cl4O2
reactant | hydrogen chloride | Cl | ClH
reactant | 2-azido-3-phenylpropionic acid methyl ester | 10 mmoles, 2.05 grams | COC(C(CC1=CC=CC=C1)N=[N+]=[N-])=O | C10H11N3O2
solvent | ethyl acetate | 1 ml | C(C)(=O)OCC | C4H8O2
solvent | methyl acetate | 5 ml | C(C)(=O)OC | C3H6O2
catalyst | sodium perrhenate | 0.1 mmole, 27.3 mg | [Re](=O)(=O)(=O)[O-].[Na+]
product | 2-isocyanato-3-phenylpropenoic acid methyl ester | COC(C(=CC1=CC=CC=C1)N=C=O)=O | C11H9NO3
